2129-03-06 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Agitated and SOB: Gave 2mg IV morphine and ipratropium nebs.
   S: C/o buttock pain. No CP, SOB, palp.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-5**] 11:00 PM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2129-3-6**] 12:49 AM
   Heparin Sodium - [**2129-3-6**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-6**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36
C (96.8
   HR: 92 (88 - 108) bpm
   BP: 113/45(62) {98/43(57) - 134/75(79)} mmHg
   RR: 24 (16 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    100 mL
                                                                     60 mL
   PO:
             TF:
   IVF:
                                                                    100 mL
                                                                     60 mL
   Blood products:
   Total out:
                                                                    400 mL
                                                                    970 mL
   Urine:
                                                                    400 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -300 mL
                                                                   -911 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ////
   Physical Examination
   GEN: Drowsy with slow answers, oriented to self, trouble finding a
   comfortable position
   HEENT: NCAT, PERRL, no icterus, MM dry.
   NECK: Supple, JVP to angle of the jaw
   CV: Irregular rate and rhythm, nl S1 and S2, no m/r/g
   LUNGS: Decreased BS B/L, mildly labored resps
   ABD: NABS. Soft, distended, NT.
   EXT: 3+ pitting edema b/l with erythema of BLE (L >R). Left 1st toe
   with dark hematoma & gangrenous skin with blister on dorsum of toe.
   Open wound at distal tip is dry and without drainage. Multiple toe
   amputations.
   PULSES: 1+ DP pulses bilat, PT pulses dopplerable.
   Labs / Radiology
   396
   8.4
   4.3
   34
   4.1
   65
   92
   139
   26.7
   10.8
        [image002.jpg]
   Glc 77, CK 53, Ca 8.8, Mg 2.5, Phos 3.8
   Assessment and Plan
   A&P: 82 yo male with a hx of CAD s/p CABG, systolic HF, and PVD
   presents with acute decompensated HF with LLE cellulitis and infection
   of wound in distal forefoot.
   .
   # Acute on chronic systolic HF, EF 20-30%: Patient has significant
   volume overload on exam and has a positive heart failure ROS. BNP
   elevated to 8569. Unclear precipitant, but possible etiologies include
   Na intake, hypertension, ischemia, or worsening valvular dysfunction.
   Had similar episode in [**12-6**], which responded well to IV diuresis.
   Although has had difficulty with diuresis in past requiring CVVH and
   milrinone.
   - Continue with IV lasix boluses and lasix gtt.  Goal negative 2-3L
   daily, as tolerated by BP.
   - Cont PO metolazone.
   - Check [**Hospital1 **] lytes while aggressively diuresing
   - TTE to assess for possible precipitants such as changes in valve
   function, new WMA.
   - Cont lisinopril and carvedilol with careful observation of BPs. Would
   avoid stopping B-blocker abruptly to prevent catecholamine rebound.
   .
   # LLE ulcers and celllulitis: Plain films concerning for osteomyelitis.
   Given Vanco and Unasyn in ED. Vascular consulted and will consider
   debridement. Patient without leukocytosis or fever. Per vascular
   surgery, patient has poor options for revascularation of his left LE.
   - Follow up vascular recs. [**Month (only) 60**] need foot MRI for further eval for
   osteomyelitis.
   - F/u blood cultures
   - Continue empiric vanco and pip-tazo
   - Wet-to-dry dressing on toe, adaptic on bullae
   .
   # Pulmonary opacity: Retrocardiac opacity on CXR concerning for PNA.
   Patient with nonproductive cough, but no fevers or leukocytosis. This
   will be well covered with his current abx regimen.
   - Cont abx as above
   - F/u blood cx
   - Send sputum cx if cough becomes productive
   - Monitor temp, WBC count
   .
   # CAD: S/p CABG [**10-5**]. Trop-T currently .23 -> .21 (baseline troponin
   .16-.23). MB negative. These labs make acute ischemia unlikely.
   Furthermore, no new ischemic changes noted on EKG.
   - Cont ASA, rosuvastatin, carvedilol
   .
   # Atrial Fibrillation: Rate currently well controlled. Patient not on
   warfarin anticoagulation.
   - Cont carvedilol and ASA.
   - Monitor rhythm on telemetry.
   .
   # COPD: Good O2 sats, mild wheezes on exam.
   - Cont fluticasone-salmeterol
   .
   # CKD: Creatinine 1.4 (baseline 1.5-2.5).
   - Trend creatinine given diuresis and monitor urine output
   .
   # Hypercholesterolemia:
   - Cont rosuvastatin
   .
   # DMII: Last HbA1C 5.8 ([**12-5**]).
   - Continue glargine and humalog ISS.  Titrate up as tolerated.
   .
   # Anemia: Hct 26, with baseline mid 20s.
   - Continue erythopoeitin
   - Daily hcts
   .
   # FEN:
   - Cardiac diabetic diet
   .
   # ACCESS: PIV
   .
   # PROPH: heparin SC, bowel reg
   .
   # DISPO: CCU pending diuresis with hemodynamic stability.
   .
   # Communication: Wife [**Name (NI) **] [**Telephone/Fax (1) 8347**]
   .
   # CODE: DNR/DNI per patient's wife
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-3-5**] 10:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   critically ill due to acute on chronic diastolic and systolic heart
   failure, renal failure, right heart failure.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   date of service 3/8/9
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2129-3-6**] 13:15 ------

2129-03-07 05:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2129-3-7**]
   -question of hospice?
   -vascular wound recs-Vanc/Zosyn
   -on lasix gtt, turned up to 15mg/hr->put out 1.5L
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-6**] 08:30 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-7**] 04:00 AM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Heparin Sodium - [**2129-3-6**] 05:08 PM
   Heparin Sodium (Prophylaxis) - [**2129-3-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-7**] 05:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.5
C (97.7
   HR: 79 (72 - 103) bpm
   BP: 94/33(48) {87/33(48) - 127/73(102)} mmHg
   RR: 19 (15 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,357 mL
                                                                    370 mL
   PO:
                                                                    760 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    597 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  2,835 mL
                                                                    740 mL
   Urine:
                                                                  2,835 mL
                                                                    740 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,478 mL
                                                                   -370 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///35/
   Physical Examination
   General: NAD
   CV: RRR
   Pulm: bibasilar crackles
   Abd: + BS, soft, NT, ND
   Ext: 2+ bilateral edema; left foot well-wrapped with no evidence of
   bleeding or drainage through dressing
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   348 K/uL
   8.5 g/dL
   76 mg/dL
   1.4 mg/dL
   35 mEq/L
   3.7 mEq/L
   65 mg/dL
   94 mEq/L
   135 mEq/L
   26.8 %
   9.0 K/uL
        [image002.jpg]
                             [**2129-3-6**]  06:43 AM
                             [**2129-3-6**]  04:56 PM
                             [**2129-3-7**]  04:07 AM
   WBC
   10.8
   9.0
   Hct
   26.7
   26.8
   Plt
   396
   348
   Cr
   1.3
   1.4
   1.4
   TropT
   0.23
   Glucose
   77
   112
   76
   Other labs: CK / CKMB / Troponin-T:53//0.23, Ca++:8.4 mg/dL, Mg++:2.3
   mg/dL, PO4:4.1 mg/dL
   A&P: 82 yo male with a hx of CAD s/p CABG, systolic HF, and PVD
   presents with acute decompensated HF with LLE cellulitis and infection
   of wound in distal forefoot.
   .
   1. Acute on chronic systolic HF, EF 20-30%: Patient continues to be
   overloaded and has been diuresing well on lasix drip with metolazone.
   Unclear precipitant, but possible etiologies include Na intake,
   hypertension, ischemia, or worsening valvular dysfunction. Had similar
   episode in [**12-6**], which responded well to IV diuresis.
   - Continue lasix gtt with PO metolazone.  Goal negative 3L daily, as
   tolerated by BP.
   - Check [**Hospital1 **] lytes while aggressively diuresing
   - follow-up TTE
   - Cont lisinopril and carvedilol with careful observation of BPs. Would
   avoid stopping B-blocker abruptly to prevent catecholamine rebound.
   .
   2. LLE ulcers and celllulitis: Plain films concerning for
   osteomyelitis. Given Vanco and Unasyn in ED. Vascular consulted and
   will consider debridement. Patient without leukocytosis or fever. Per
   vascular surgery, patient has poor options for revascularation of his
   left LE.
   - appreciate vascular recs
   - F/u blood cultures
   - Continue empiric vanco and pip-tazo
   - Wet-to-dry dressing on toe, adaptic on bullae
   .
   3. Pulmonary opacity:
   Retrocardiac opacity on CXR concerning for PNA and with increased
   sputum production. This will be well covered with his current abx
   regimen.
   - Cont abx as above
   - F/u blood cx
   - Send sputum cx if cough becomes productive
   - Monitor temp, WBC count
   .
   4. CAD: S/p CABG [**10-5**]. Trop-T currently .23 -> .21 (baseline troponin
   .16-.23). MB negative. These labs make acute ischemia unlikely.
   Furthermore, no new ischemic changes noted on EKG.
   - Cont ASA, rosuvastatin, carvedilol, and ACEI
   .
   5. Atrial Fibrillation: Rate currently well controlled. Patient not on
   warfarin anticoagulation.
   - Cont carvedilol and ASA.
   - Monitor rhythm on telemetry.
   .
   6. COPD: Good O2 sats, mild wheezes on exam.
   - Cont fluticasone-salmeterol
   .
   7. CKD: Creatinine 1.4 (baseline 1.5-2.5).
   - Trend creatinine given diuresis and monitor urine output
   .
   # Hypercholesterolemia:
   - Cont rosuvastatin
   .
   # DMII: Last HbA1C 5.8 ([**12-5**]).
   - Continue glargine and humalog ISS.  Titrate up as tolerated.
   .
   # Anemia: Hct 26, with baseline mid 20s.
   - Continue erythopoeitin
   - Daily hcts
   .
   # FEN:
   - Cardiac diabetic diet
   .
   # ACCESS: PIV
   .
   # PROPH: heparin SC, bowel reg
   .
   # DISPO: CCU pending diuresis with hemodynamic stability.
   .
   # Communication: Wife [**Name (NI) **] [**Telephone/Fax (1) 8347**]
   .
   # CODE: DNR/DNI per patient's wife
   ICU [**Name (NI) **]
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-3-5**] 10:27 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu
   Physical Examination
   as per ccu
   Medical Decision Making
   Critically ill due to acute on chronic systolic CHF.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2129-3-7**] 13:28 ------
   Critical care time 35 minutes.
   Date of service 3/9/9
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 5061**], RN
   on:[**2129-3-7**] 13:31 ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   as per ccu team
   Physical Examination
   as per ccu team
   Medical Decision Making
   Critically ill due to acute on chronic systolic and diastolic CHF,
   renal failure, severe PVD.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Date of service 3/9/9.
   ------ Protected Section Addendum Entered By:[**Name (NI) 391**] [**Name (NI) **], MD
   on:[**2129-3-7**] 13:36 ------

2129-03-09 07:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Chart review: Weight [**12-6**] 113kg, then had 18kg diuresis.
   Spironolactone stopped [**1-6**] admission, reason unclear. Warfarin also
   stopped [**1-6**] due to bilat spontaneous psoas hematomas.
   - Vascular recs: no debridement.
   - Lasix gtt held several hrs for SBP 80s, later resumed at 10mg/hr with
   120mg bolus.
   S: Feels
very little
 SOB. C/o L foot pain and some lightheadedness.
   No CP or palp.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-8**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-9**] 03:57 AM
   Infusions:
   Furosemide (Lasix) - 10 mg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2129-3-8**] 04:00 PM
   Furosemide (Lasix) - [**2129-3-8**] 05:15 PM
   Morphine Sulfate - [**2129-3-9**] 03:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-9**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.4
C (97.5
   HR: 84 (74 - 107) bpm
   BP: 100/68(75) {83/32(47) - 118/68(75)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 101.2 kg (admission): 105.9 kg
             Total In:
                                                                  1,589 mL
                                                                    265 mL
   PO:
                                                                    700 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    889 mL
                                                                    205 mL
   Blood products:
   Total out:
                                                                  2,904 mL
                                                                    883 mL
   Urine:
                                                                  2,904 mL
                                                                    883 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,315 mL
                                                                   -618 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///35/
   Physical Examination
   General: NAD
   HEENT: MM dry
   CV: Irreg, no m/r/g
   Pulm: CTAB anteriorly
   Abd: + BS, soft, NT, distended
   Ext: 2+ bilateral LE edema; bilat feet in multipodous boots. Left foot
   well-wrapped with no evidence of bleeding or drainage through dressing,
   LLE distal to knee with erythema. WWP.
   Labs / Radiology
   330 K/uL
   7.8 g/dL
   90 mg/dL
   1.8 mg/dL
   35 mEq/L
   4.1 mEq/L
   65 mg/dL
   93 mEq/L
   137 mEq/L
   25.1 %
   8.7 K/uL
        [image002.jpg]
                             [**2129-3-6**]  06:43 AM
                             [**2129-3-6**]  04:56 PM
                             [**2129-3-7**]  04:07 AM
                             [**2129-3-7**]  04:23 PM
                             [**2129-3-8**]  03:40 AM
                             [**2129-3-8**]  04:52 PM
                             [**2129-3-9**]  02:24 AM
   WBC
   10.8
   9.0
   9.1
   8.7
   Hct
   26.7
   26.8
   25.5
   25.1
   Plt
   396
   348
   362
   330
   Cr
   1.3
   1.4
   1.4
   1.6
   1.7
   1.6
   1.8
   TropT
   0.23
   Glucose
   77
   112
   76
   105
   74
   115
   90
   Other labs: CK / CKMB / Troponin-T:53//0.23, Albumin:2.6 g/dL, Ca++:8.2
   mg/dL, Mg++:2.3 mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   82 yo male with a hx of CAD s/p CABG, systolic HF, and PVD presents
   with acute decompensated HF with LLE cellulitis and infection of wound
   in distal forefoot.
   1. Acute on chronic systolic HF, EF 20-30%:
   Patient continues to be overloaded and has been diuresing well on lasix
   drip with metolazone. Unclear precipitant, but possible etiologies
   include Na intake, hypertension, ischemia, or worsening valvular
   dysfunction.
   - Continue lasix gtt with PO metolazone.  Goal negative 2L as tolerated
   by BP.
   - Check [**Hospital1 **] lytes while aggressively diuresing- Cont lisinopril and
   carvedilol with careful observation of BPs. Would avoid stopping
   B-blocker abruptly to prevent catecholamine rebound.
   - consider starting spironolactone given his severe CHF
   2. Hypotension
   Etiology of his relatively low blood pressures this morning is likely
   related to RV dysfunction, systolic dysfunction, and aggressive
   diuresis.
   - continue diuresis and monitor BP closely
   3. LLE ulcers and celllulitis:
   Per vascular surgery, patient has poor options for revascularation of
   his left LE.
   - appreciate vascular recs
   - F/u blood cultures
   - Continue empiric vanco and pip-tazo
   - Wet-to-dry dressing on toe, adaptic on bullae
   .
   4. Pulmonary opacity:
   Retrocardiac opacity on CXR concerning for PNA and with increased
   sputum production. This will be well covered with his current abx
   regimen.
   - Cont abx as above
   - F/u blood cx
   - Send sputum cx if cough becomes productive
   - Monitor temp, WBC count
   .
   5. CAD: S/p CABG [**10-5**]. Trop-T currently .23 -> .21 (baseline troponin
   .16-.23). MB negative. These labs make acute ischemia unlikely.
   Furthermore, no new ischemic changes noted on EKG.
   - Cont ASA, rosuvastatin, carvedilol, and ACEI
   .
   5. Atrial Fibrillation: Rate currently well controlled. Patient not on
   warfarin anticoagulation.
   - Cont carvedilol and ASA.
   - Monitor rhythm on telemetry.
   - will follow-up with PCP regarding need for anticoagulation
   .
   6. COPD: Good O2 sats, mild wheezes on exam.
   - Cont fluticasone-salmeterol
   .
   7. CKD:   (baseline 1.5-2.5).
   - Trend creatinine given diuresis and monitor urine output
   .
   8. Hypercholesterolemia:
   - Cont rosuvastatin
   .
   9. DMII: Last HbA1C 5.8 ([**12-5**]).
   - Continue glargine and humalog ISS.  Titrate up as tolerated.
   .
   10. Anemia: Hct 26, with baseline mid 20s.
   - Continue erythopoeitin
   - Daily hcts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-3-5**] 10:27 PM
   20 Gauge - [**2129-3-7**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-03-10 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -having epistaxis, oozing at hep site, hematuria, INR 1.6, consider uro
   consult in am and decreased hep to [**Hospital1 **] subQ
   -having lower BPs but increase lasix gtt to 20mg
   S: Feels a little SOB, but baseline for him. No CP, palp, fever,
   chills.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2129-3-9**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2129-3-9**] 10:10 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-3-10**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.3
C (95.6
   HR: 85 (74 - 89) bpm
   BP: 104/54(67) {77/33(44) - 110/68(75)} mmHg
   RR: 18 (14 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 100.8 kg (admission): 105.9 kg
             Total In:
                                                                  1,602 mL
                                                                    111 mL
   PO:
                                                                    540 mL
             TF:
   IVF:
                                                                  1,062 mL
                                                                    111 mL
   Blood products:
   Total out:
                                                                  2,413 mL
                                                                    730 mL
   Urine:
                                                                  2,413 mL
                                                                    730 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -811 mL
                                                                   -619 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 93%
   ABG: ///38/
   Physical Examination
   General: NAD, disoriented
   HEENT: MM dry
   CV: Irreg, no m/r/g. JVP > 15-20cm
   Pulm: CTAB anteriorly, distant breath sounds
   Abd: + BS, soft, NT, distended
   Ext: 2+ bilateral LE edema; bilat feet in multipodous boots. Left foot
   well-wrapped with no evidence of bleeding or drainage through dressing,
   Less erythema to LLE. WWP.
   Labs / Radiology
   366 K/uL
   8.5 g/dL
   80 mg/dL
   1.9 mg/dL
   38 mEq/L
   3.9 mEq/L
   66 mg/dL
   93 mEq/L
   138 mEq/L
   27.0 %
   8.8 K/uL
        [image002.jpg]
                             [**2129-3-6**]  06:43 AM
                             [**2129-3-6**]  04:56 PM
                             [**2129-3-7**]  04:07 AM
                             [**2129-3-7**]  04:23 PM
                             [**2129-3-8**]  03:40 AM
                             [**2129-3-8**]  04:52 PM
                             [**2129-3-9**]  02:24 AM
                             [**2129-3-9**]  03:15 PM
                             [**2129-3-10**]  04:39 AM
   WBC
   10.8
   9.0
   9.1
   8.7
   8.8
   Hct
   26.7
   26.8
   25.5
   25.1
   27.0
   Plt
   396
   348
   362
   330
   366
   Cr
   1.3
   1.4
   1.4
   1.6
   1.7
   1.6
   1.8
   1.9
   1.9
   TropT
   0.23
   Glucose
   77
   112
   76
   105
   74
   115
   90
   113
   80
   Other labs: PT / PTT / INR:17.3/32.7/1.6, CK / CKMB /
   Troponin-T:53//0.23, Albumin:2.6 g/dL, Ca++:8.5 mg/dL, Mg++:2.4 mg/dL,
   PO4:4.1 mg/dL
   A/P: 82 yo male with a hx of CAD s/p CABG, systolic HF, and PVD
   presents with acute decompensated HF with LLE cellulitis and infection
   of wound in distal forefoot.
   1. Acute on chronic systolic HF, EF 20-30%:
   Diruesing well on lasix gtt.
   - continue aggressive diuresis with lasix gtt and metolazone
   - i/o goal negative 1L
   - Cont lisinopril and carvedilol with careful observation of BPs.
   Would avoid stopping B-blocker abruptly to prevent catecholamine
   rebound.
   - Check [**Hospital1 **] lytes while aggressively diuresing
   - consider starting spironolactone given his severe CHF
   2. Hypotension.  Possibly from aggressive diruesis and baseline RV
   dysfunction.
   - continue diuresis and monitor BP closely, make floor blood pressure
   thereshold 85
   3. LLE ulcers and celllulitis:
   Per vascular surgery, patient has poor options for revascularation of
   his left LE.
   - appreciate vascular recs
   - F/u blood cultures
   - Continue empiric vanco and pip-tazo day 6/7 days (day 1: [**2129-3-5**])
   - Wet-to-dry dressing on toe, adaptic on bullae
   bleeding at PIV: check INR, give Vitamin K, continue aspirin
   4. Pulmonary opacity:
   Retrocardiac opacity on CXR concerning for PNA and with increased
   sputum production. This will be well covered with his current abx
   regimen.
   - Cont abx as above
   - F/u blood cx
   - Send sputum cx if cough becomes productive
   - Monitor temp, WBC count
   5. CAD: S/p CABG [**10-5**].  No chest pain.
   - Cont ASA, rosuvastatin, carvedilol, and ACEI
   5. Atrial Fibrillation: Rate currently well controlled. Patient not on
   warfarin anticoagulation.
   - Cont carvedilol and ASA.
   - Monitor rhythm on telemetry.
   - will follow-up with PCP regarding need for anticoagulation
   6. COPD: Good O2 sats, mild wheezes on exam.
   - Cont fluticasone-salmeterol
   7. CKD:   (baseline 1.5-2.5).
   - Trend creatinine given diuresis and monitor urine output
   8. Hypercholesterolemia:
   - Cont rosuvastatin
   9. DMII: Last HbA1C 5.8 ([**12-5**]).
   - Continue glargine and humalog ISS.  Titrate up as tolerated.
   10. Anemia: Hct 26, with baseline mid 20s.
   - Continue erythopoeitin
   - Daily hcts
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2129-3-5**] 10:27 PM
   20 Gauge - [**2129-3-7**] 12:00 PM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer:  Not indicated
   VAP:  not indicated
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition: call out to floor